US04971982
79 mg of 4-(4-chloro-2-pyridyl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile were dissolved in 10 ml of dichloromethane and 70 mg of m-chloroperbenzoic acid were added. The mixture was stirred at room temperature for 3 days, then washed in succession with sodium bisulphite solution, sodium bicarbonate solution and water, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using 1% (v/v) methanol/ethyl acetate for the elution to give, after trituration with diethyl ether, a solid which was recrystallized from ethyl acetate/petroleum ether. There being obtained 20 mg of 4-chloro-2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide of melting point 173°-174° C.

reactant | 4-(4-chloro-2-pyridyl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 79 mg | ClC1=CC(=NC=C1)C1CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H15ClN2O
reactant | m-chloroperbenzoic acid | 70 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-chloro-2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide | 20 mg | ClC1=CC(=[N+](C=C1)[O-])C1CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H15ClN2O2
